US09254251B2
Preparation of 3-adamantan-1-yl-N-[2-(4-hydroxyphenyl)-ethyl]-4-methoxybenzamide
0.03 g of the target compound is obtained as white solid in substantially the same manner as in Example 11, except for using 3-adamantan-1-yl-4-methoxybenzoic acid instead of 3-adamantan-1-yl-4-hydroxybenzoic acid and using tyramine instead of 3,4-dihydroxybenzylamine.

reactant | 3-adamantan-1-yl-4-methoxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2OC | C18H22O3
reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
product | 3-adamantan-1-yl-N-[2-(4-hydroxyphenyl)-ethyl]-4-methoxybenzamide | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NCCC3=CC=C(C=C3)O)C=CC2OC | C26H31NO3
